US07265149B2
In analogy to the procedure described for example 1 a], 5-(4-chloro-phenyl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester was reduced with lithium aluminium hydride to give [5-(4-chloro-phenyl)-2-methyl-2H-pyrazol-3-yl]-methanol as colorless crystals.

reactant | 5-(4-chloro-phenyl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(N=C(C1)C1=CC=C(C=C1)Cl)C | C13H13ClN2O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | [5-(4-chloro-phenyl)-2-methyl-2H-pyrazol-3-yl]-methanol | ClC1=CC=C(C=C1)C=1C=C(N(N1)C)CO | C11H11ClN2O
